US06730668B2
Preparation of 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (24):
1-[4-Dimethylamino-2-(2-methylsulfanyl-pyrimidine-4-carbonyl)-pyrazolidin-1-yl]-2-(4-fluorophenyl)-ethanone, 23, (4.0 g, 10 mmol) is dissolved in THF (75 mL). This solution is then added dropwise via cannula to a suspension of NaH (0.440 g of a 60% dispersion in mineral oil, 11 mmol) at −30° C. The reaction is allowed to gradually warm to 0° C. over 3 hours. The reaction is quenched with NH4Cl (sat. aq.) (15 mL). The mixture is stirred at room temperature, then concentrated in vacuo. The residue is diluted with tetrahydrofuran (250 mL) and the mixture filtered through Celite. The filtrate is concentrated in vacuo to give an oil. The crude product is purified over silica (100% ethyl acetate to 5% to 10% to 20% methyl alcohol/ethyl acetate) to afford the desired product.

reactant | 1-[4-Dimethylamino-2-(2-methylsulfanyl-pyrimidine-4-carbonyl)-pyrazolidin-1-yl]-2-(4-fluorophenyl)-ethanone | CN(C1CN(N(C1)C(CC1=CC=C(C=C1)F)=O)C(=O)C1=NC(=NC=C1)SC)C | C19H22FN5O2S
reactant | NaH | [H-].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 6-dimethylamino-2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CN(C1CN2N(C1)C(C(=C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F)=O)C | C19H20FN5OS
